US07713979B2
3-Benzyl-1-cyclohexyl-5-methyl-pyrrolidin-2-one
Charge a flask with 1-cyclohexyl-5-methyl-pyrrolidin-2-one (U.S. Pat. No. 6,743,819, 500 mg, 2.8 mmol), dissolve in THF (30 mL) and cool to −78° C. under nitrogen. Add LDA (2M, 1.7 mL, 3.3 mmol) and stir at −78° C. for 10 minutes. Add 2-chlorobenzaldehyde (500 mg, 3.6 mmol) and warm to room temperature. Pour into saturated aqueous ammonium chloride and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate. Dissolve the residue in THF (30 mL) and add triethylamine (360 mg, 3.6 mmol) and methanesulfonyl chloride (380 mg, 3.3 mmol). Stir at room temperature for 2 hours and filter. Add DBU (440 mg, 3.6 mmol) to the filtrate and stir overnight. Pour the reaction into water and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate. Purify residue over silica gel (5:1 hexanes:ethyl acetate). Dissolve the residue in methanol (10 mL) and add 10% palladium on carbon (40 mg) and stir under a balloon of hydrogen for 3 days. Filter through celite® and concentrate. Purify over silica gel (9:1 hexanes:ethyl acetate) to afford two separable isomers.

reactant | 1-cyclohexyl-5-methyl-pyrrolidin-2-one | C1(CCCCC1)N1C(CCC1C)=O | C11H19NO
reactant | LDA | 3.3 mmol, 2M, 1.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-chlorobenzaldehyde | 3.6 mmol, 500 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | triethylamine | 3.6 mmol, 360 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.3 mmol, 380 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | 3.6 mmol, 440 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Benzyl-1-cyclohexyl-5-methyl-pyrrolidin-2-one | C(C1=CC=CC=C1)C1C(N(C(C1)C)C1CCCCC1)=O | C18H25NO
